US05681954
In 50 ml of methanol was dissolved 1.50 g of 1-benzyloxycarbonyl-4-(3-(2-ethoxycarbonylethyl)carbonylamino-2-methylphenyl)piperazine, and 1.0 g of 10% palladium-on-carbon was added thereto, followed by stirring at room temperature in a hydrogen atmosphere for 2 hours. The reaction mixture was filtered and the solvent was evaporated to yield 0.99 g of 3-(2-ethoxycarbonylethyl)carbonylamino-2-methylphenylpiperazine, which was used in the next reaction without purification.

reactant | 1-benzyloxycarbonyl-4-(3-(2-ethoxycarbonylethyl)carbonylamino-2-methylphenyl)piperazine | 1.50 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1)NC(=O)CCC(=O)OCC)C | C25H31N3O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-on-carbon | 1.0 g | [Pd] | Pd
product | 3-(2-ethoxycarbonylethyl)carbonylamino-2-methylphenylpiperazine | 0.99 g | C(C)OC(=O)CCC(=O)NC=1C(=C(C=CC1)N1CCNCC1)C | C17H25N3O3
